US08138175B2
A) 3-Methyl-4-(4-nitro-3-trifluoromethyl-phenyl)-piperazin-2-one
A mixture of 3-methyl-2-ketopiperazine (200 mg, 1.75 mmol), 5-fluoro-2-nitrobenzo-trifluoride (366 mg, 1.75 mmol), N,N-diisopropylethylamine and N,N-dimethylformamide (1 mL) was heated at 140° C. for 10 min under microwave irradiation, then partitioned between sat. aq. ammonium chloride solution and EtOAc. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; heptane/EtOAc 4:1) produced the title compound (130 mg, 24%). Yellow solid, MS: 304.1 (M+H)+.

reactant | 3-methyl-2-ketopiperazine | 1.75 mmol, 200 mg | CC1C(NCCN1)=O | C5H10N2O
reactant | 5-fluoro-2-nitrobenzo-trifluoride | 1.75 mmol, 366 mg | FC=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-Methyl-4-(4-nitro-3-trifluoromethyl-phenyl)-piperazin-2-one | 130 mg, 24% | CC1C(NCCN1C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O | C12H12F3N3O3
